US07598397B2
A solution of 4-naphthalen-2-ylmethyl-5-nitro-4H-benzo[1,4]oxazin-3-one, I-59 (0.65 g) in methanol (30 mL) and dioxane (7.0 mL) was hydrogenated in presence of 10% Pd—C at 45 psi for 22 h. Reaction mixture was filtered and the filtrate was concentrated to give 5-Amino-4-naphthalen-2-ylmethyl-4H-benzo[1,4]oxazin-3-one, I-60 (620 mg).

reactant | 4-naphthalen-2-ylmethyl-5-nitro-4H-benzo[1,4]oxazin-3-one | C1=C(C=CC2=CC=CC=C12)CN1C(COC2=C1C(=CC=C2)[N+](=O)[O-])=O | C19H14N2O4
reactant | dioxane | 7.0 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | 5-Amino-4-naphthalen-2-ylmethyl-4H-benzo[1,4]oxazin-3-one | NC1=CC=CC2=C1N(C(CO2)=O)CC2=CC1=CC=CC=C1C=C2 | C19H16N2O2
